US07015348B2
To a solution of 14.48 g (0.6129 mol) of ethyl 4-benzyloxy-3-oxo-butanoate in 145 ml of methanol, 20.54 g (0.3258 mol) of ammonium formate was added, and the resulting mixture was heated under reflux for 16 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and the solvent was evaporated off under reduced pressure. To the reside, 100 ml of ethyl acetate and 100 ml of water were added, and the mixture was stirred at room temperature for 30 minutes. Then, the organic layer was separated and the aqueous layer was extracted with 50 ml of ethyl acetate. The organic layers were combined, washed twice with each 50 ml of a brine and dried over sodium sulfate. The solvent was removed under reduced pressure, and the residue was then distilled to give the objective ethyl 4-benzyloxy-3-amino-2-butenoate (7.61 g, colorless liquid). The yield was 52.8%.

reactant | ethyl 4-benzyloxy-3-oxo-butanoate | 0.6129 mol, 14.48 g | C(C1=CC=CC=C1)OCC(CC(=O)OCC)=O | C13H16O4
reactant | ammonium formate | 0.3258 mol, 20.54 g | C(=O)[O-].[NH4+]
solvent | methanol | 145 ml | CO | CH4O
product | ethyl 4-benzyloxy-3-amino-2-butenoate | 7.61 g, yield was 52.8% | C(C1=CC=CC=C1)OCC(=CC(=O)OCC)N | C13H17NO3
